US07410963B2
3-[7-(Furan-2-yl)-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile
Prepared from 3-(7-iodo-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 11 using the same conditions used to prepare Example 1 but using 2-furanboronic acid instead of benzene boronic acid. The title compound (10 mg) was obtained as a brown solid, (yield=8%).

reactant | 3-(7-iodo-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | IC1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1 | C17H12IN3O
reactant | 2-furanboronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
product | 3-[7-(Furan-2-yl)-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | 10 mg, yield=8% | O1C(=CC=C1)C1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1 | C21H15N3O2
